US04547506
2-Bromopyridine (15.8 g), ethylene diamine (30 g) and pyridine (10 ml) were heated together under reflux for 3 hr. The mixture was stripped to remove the excess of ethylene diamine and the residue taken up in water. The pH was adjusted to 14 and extracted with chloroform. The extracts were dried (K2CO3), stripped and the residue distilled at reduced pressure to give 2-(2-aminoethylamino) pyridine, 8.24 g (60%) bp 80° C., 0.01 mm Hg. (ii) A mixture of sodium hydride (0.53 g) and 2-(aminoethylamino)pyridine (2.74 g) in DMSO (30 ml) was heated slowly to 85° C. under nitrogen. After the evolution of hydrogen had ceased the solution was cooled to room temperature and benzyl bromide (2.37 ml) added dropwise keeping the temperature below 30° C. After a further 1 hr, water (200 ml) was added, the mixture extracted with ether and the extract washed with 2N hydrochloric acid. The pH of the aqueous layer was adjusted to 4.5 and extracted with chloroform. The pH was further raised to 14 and extracted with ether. After drying (K2CO3) and stripping, the final ether extract gave 2-[N-(2-aminoethyl)-N-benzylamino]pyridine (2.58 g) as an oil which was used without further purification.

reactant | 2-Bromopyridine | 15.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | ethylene diamine | 30 g | C(CN)N | C2H8N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-aminoethylamino) pyridine | NCCNC1=NC=CC=C1 | C7H11N3
